US06008230
To a stirred mixture of 1,4-dihydro-4-oxo-8-nitroquinoline (10 g) in dimethylformamide (100 ml) was dropwise added N-bromosuccinimide (9.83 g) over the period of 2 minutes under ice-cooling, and the mixture was stirred for 30 minutes at 4° C. Water was added thereto under ice-cooling, and the mixture was stirred for 1 hour. The resulting precipitate was collected by filtration, and the residue was washed with water and hot ethanol to give 3-bromo-1,4-dihydro-8-nitro-4-oxoquinoline (12.12 g).

reactant | 1,4-dihydro-4-oxo-8-nitroquinoline | 10 g | O=C1C=CNC2=C(C=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | N-bromosuccinimide | 9.83 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-bromo-1,4-dihydro-8-nitro-4-oxoquinoline | 12.12 g | BrC1=CNC2=C(C=CC=C2C1=O)[N+](=O)[O-] | C9H5BrN2O3
